US04816582
24.9 g of ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-[(1-methyl-1H-tetrazol-5-yl)methoxy]imino]-acetate are dissolved in 100 ml of methanol and the solution is treated with 250 ml of 1N aqueous sodium hydroxide solution. The mixture is stirred at room temperature for 12 hours and treated with 150 ml of water. The methanol is subsequently removed under reduced pressure. The aqueous solution is washed with ethyl acetate and treated with 250 ml of 1N aqueous hydrochloric acid. The acid crystallizes upon concentration. The acid is filtered off and, for the removal of water (about 16%), stirred for 6 hours in 350 ml of acetonitrile, filtered and dried. There are obtained 14.2 g of 2-(2-amino-4-thiazolyl)-2-[(Z)-[(1-methyl-1H-tetrazol-5-yl)methoxy]imino]-acetic acid of melting point 185° C.

reactant | ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-[(1-methyl-1H-tetrazol-5-yl)methoxy]imino]-acetate | 24.9 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCC1=NN=NN1C | C10H13N7O3S
reactant | sodium hydroxide | 1N, 250 ml | [OH-].[Na+]
reactant | water | 150 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2-(2-amino-4-thiazolyl)-2-[(Z)-[(1-methyl-1H-tetrazol-5-yl)methoxy]imino]-acetic acid | 14.2 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC1=NN=NN1C | C8H9N7O3S
